US04661607
A mixture of 4-bromo-8-fluoro-2-hydroxy-9-oxo-9H-xanthene (1.5 g), potassium carbonate (3.4 g), ethyl bromoacetate (4.2 g) and DMF (60 ml) was stirred at 60°-65° C. for 4 hours. After cooling the mixture, sodium hydroxide (2 g) and water (100 ml) were added and the resulting mixture was stirred at 90°-100° C. for 30 minutes. After cooling, the mixture was rendered acidic with hydrochloric acid and the solid crystal was recovered by filtration, washed with water and dried. Recrystallization from ethanol gave 1.2 g of 4-bromo-8-fluoro-9-oxo-9H-xanthene-2-yloxyacetic acid. m.p. 220°-223° C. This compound gave a mass spectrum having a molecular ion peak at m/e 366.

reactant | 4-bromo-8-fluoro-2-hydroxy-9-oxo-9H-xanthene | 1.5 g | BrC1=CC(=CC=2C(C3=C(C=CC=C3OC12)F)=O)O | C13H6BrFO3
reactant | potassium carbonate | 3.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 4.2 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 4-bromo-8-fluoro-9-oxo-9H-xanthene-2-yloxyacetic acid | 1.2 g | BrC1=CC(=CC=2C(C3=C(C=CC=C3OC12)F)=O)OCC(=O)O | C15H8BrFO5
